US05677464
(S)-Lactic acid (60 g) and 75 g of benzyl bromide were dissolved in 500 ml of dimethylformamide, to which 72.5 g of potassium iodide and 150 g of potassium carbonate were added with ice cooling. After the mixture was stirred at room temperature for 6 hours, 500 ml of ethyl acetate and 500 ml of diisopropyl ether were added thereto. The supernatant layer was obtained by decantation and the precipitate was washed with 100 ml of diisopropyl ether. The organic solutions thus obtained were combined and poured into 200 ml of 5N-hydrochloric acid under ice-cooling. The separated organic layer was washed with 250 ml of 2N-hydrochloric acid, 100 ml of an aqueous solution of sodium thiosulfate and 100 ml of an aqueous solution of sodium chloride successively, and dried over magnesium sulfate. After the solvent was distilled off under reduced pressure, the residue was distilled under reduced pressure to give 29.3 g of (S)-benzyl lactate (yield: 37%) as a colorless oil.

reactant | (S)-Lactic acid | 60 g | C([C@@H](O)C)(=O)O | C3H6O3
reactant | benzyl bromide | 75 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium iodide | 72.5 g | [I-].[K+]
reactant | potassium carbonate | 150 g | C([O-])([O-])=O.[K+].[K+]
reactant | diisopropyl ether | 500 ml | C(C)(C)OC(C)C | C6H14O
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | (S)-benzyl lactate | 29.3 g, yield: 37% | C([C@@H](O)C)(=O)OCC1=CC=CC=C1 | C10H12O3
